US04168267
[(Phenylmethoxy)-(2-phenylethyl)phosphinyl]acetic acid, methyl ester
A solution of [methyl(phenylmethoxy)phosphinyl]acetic acid, methyl ester (1.0 gm., 0.004 mole) in 20 ml. of tetrahydrofuran is added over 50 minutes to a solution of lithium diisopropylamide (0.008 mol.) in tetrahydrofuran maintained at -78° under argon. Following the addition, stirring is continued at -78° for 20 minutes. Phenylmethyl bromide (0.684 gm., 0.004 mol.) in tetrahydrofuran (5 ml.) is then added and the mixture is stirred for 2 hours at -78° and for one hour at 0°. The mixture is then neutralized to pH5 with acetic acid and poured into ether. The ether layer is washed with water, 5% potassium bisulfate and brine, and dried over magnesium sulfate. Evaporation in vacuo yields a residue which is chromatographed on silica gel with dichloromethane/ethyl acetate. The product, [(2-phenylethyl)(phenylmethoxy)phosphinyl] acetic acid, methyl ester (0.66 gm., 50%) is identical by TLC and NMR to that prepared in Example 6.

reactant | [methyl(phenylmethoxy)phosphinyl]acetic acid, methyl ester | 0.004 mole, 1.0 gm | CP(=O)(OCC1=CC=CC=C1)CC(=O)OC | C11H15O4P
reactant | lithium diisopropylamide | 0.008 mol | C(C)(C)[N-]C(C)C.[Li+]
reactant | Phenylmethyl bromide | 0.004 mol, 0.684 gm | C1(=CC=CC=C1)CBr | C7H7Br
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | [(Phenylmethoxy)-(2-phenylethyl)phosphinyl]acetic acid, methyl ester | C1(=CC=CC=C1)COP(=O)(CCC1=CC=CC=C1)CC(=O)OC | C18H21O4P
